US05185342
To a mixture of 2-phenoxybenzoic acid (7.71 g; 0.036 mol) dry benzene (80 ml), thionyl chloride (4.76 g; 0.04 mol) and DMF (2 drops) were added, and the resultant mixture was stirred under reflux for 2 hours. The reaction mixture was dropwise added to dry ethanol (100 ml) under ice-cooling in 30 minutes, followed by allowing to stand overnight. The reaction mixture was concentrated under reduced pressure and, after addition of a 4% aqueous sodium hydrogen carbonate solution (150 ml) thereto, extracted with methylene chloride. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give ethyl-2-phenoxybenzoate (8.72 g, yield, 100%) as a colorless oil.

reactant | 2-phenoxybenzoic acid | 0.036 mol, 7.71 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | benzene | 80 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 0.04 mol, 4.76 g | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl-2-phenoxybenzoate | 8.72 g, 100% | C(C)OC(C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H14O3
